US03972773
A solution of 0.216 g (10 mmol) of HCl.H-Phe-OCH3 (MW 215.5) in 40 ml of citric acid buffer solution (pH = 4.0) was added to a solution of 0.421 g of BOC-Gly-Val-Phe-OH (MW 421) in 10 ml of 1N-NaOH and 30 ml of water was further added with stirring. Then, 0.1 g of pepsin (1:10000) was added to the mixture with stirring in an incubator at 40°C for 24 hours to react them. 0.414 g of BOC-Gly-Val-Phe-Phe-OCH3 having a melting point of 193° - 196°C and [α]D30 = -14.8 (c = 1, DMF) was obtained. The yield was 71.2%.

reactant | HCl | 10 mmol, 0.216 g | Cl | ClH
reactant | H-Phe-OCH3 | N[C@@H](CC1=CC=CC=C1)C(=O)OC | C10H13NO2
reactant | BOC-Gly-Val-Phe-OH | 0.421 g | N(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H31N3O6
reactant | NaOH | [OH-].[Na+]
solvent | citric acid | 40 ml, pH = 4.0 | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | BOC-Gly-Val-Phe-Phe-OCH3 | 0.414 g, yield was 71.2% | N(CC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C31H42N4O7
